US06875765B2
A mixture of 0.35 g (1.46 mmol) (2-chloro-quinolin-5-yl)-acetic acid methyl ester and 10 mL anhydrous THF was cooled to −20° C. in a dry ice/acetone bath. 1.4 mL (1.4 mmol) IM LiAlH4 solution in ether was added dropwise. After 10 min, TLC analysis (ethyl acetate, silica, Rf prod 0.3) showed starting material consumed. The reaction was quenched with 1 mL of 1M aqueous potassium sodium tartrate solution. The product was partitioned between ethyl acetate and 10 ml brine and the product extracted with three 25 mL portions of ethyl acetate. The combined organic extracts were washed with 25 mL of brine, dried over magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield 0.29 g (1.37 mmol 99.9%) of 2-(2-chloro-quinolin-5-yl)-ethanol as a white solid. MS(APCI) m/z 208 (M, 100% abundance), 210 (M+2, 32% abundance). 1H NMR (400 MHz) CDCl3 8.38 (d, J=8.9 Hz, 1H), 7.92 (d, J=8.5 Hz, 1H), 7.70 (m, 1H), 7.46 (d, J=7.2 Hz, 1H), 7.41 (d, J=8.9 Hz), 3.97 (m, 2H), 3.32 (t, J=6.5 Hz, 2H), 1.45 (m, 1H).

reactant | (2-chloro-quinolin-5-yl)-acetic acid methyl ester | 1.46 mmol, 0.35 g | COC(CC1=C2C=CC(=NC2=CC=C1)Cl)=O | C12H10ClNO2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-(2-chloro-quinolin-5-yl)-ethanol | 1.37 mmol, 0.29 g, 99.9% | ClC1=NC2=CC=CC(=C2C=C1)CCO | C11H10ClNO
